US08461328B2
A mixture of 4-(6-benzenesulfonyl-2-methyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-4-methyl-piperidine-1-carboxylic acid tert-butyl ester (0.37 g, 0.75 mmol) in THF/methanol containing aqueous sodium hydroxide (3.75 mmol) was stirred for 16 hours. The solvent was evaporated under vacuum to a small volume, the residue dissolved in DCM, washed with saturated sodium bicarbonate solution and brine, dried over sodium sulfate and concentrated under vacuum to afford 240 mg (90%) of 4-methyl-4-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-piperidine-1-carboxylic acid tert butyl ester. LCMS (Method I, ESI): RT=3.20 min, m+H=357.3; 1H NMR (400 MHz, DMSO) δ: 12.46 (s, 1H), 9.06 (s, 1H), 7.63 (t, 1H), 6.86 (m, 1H), 3.62 (m, 2H), 3.33 (m, 2H), 2.71 (m, 2H), 2.12 (m, 2H), 1.85 (s, 3H), 1.43 (s, 9H).

reactant | 4-(6-benzenesulfonyl-2-methyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-4-methyl-piperidine-1-carboxylic acid tert-butyl ester | 0.75 mmol, 0.37 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)N1N(NC2=CN=C3N(C=CC3=C12)S(=O)(=O)C1=CC=CC=C1)C | C25H32N6O4S
reactant | THF methanol | 3.75 mmol | C1CCOC1.CO
product | 4-methyl-4-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-piperidine-1-carboxylic acid tert butyl ester | 240 mg, 90% | C(C)(C)(C)OC(=O)N1CCC(CC1)(N1N=NC2=CN=C3NC=CC3=C12)C | C18H24N6O2
